US07829560B2
3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-pyrrolidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B338).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-pyrrolidin-1-yl-ethylamine according to conditions described in general procedure C. Mp: 95-97° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.59 (bs, 4 H), 2.08-2.2 (m, 2 H), 2.37-2.47 (m, 4 H), 2.92 (bs, 1 H), 3.23-3.25 (m, 5 H), 3.74 (t, J=4.4 Hz, 4 H), 6.32 (bd, 1 H), 6.59 (bs, 1 H), 7.04 (d, J=11.4 Hz, 1 H), 7.24 (d, J=8.8 Hz, 1 H), 7.38 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.53-7.58 (m, 3 H), 7.80 (d, J=6.6 Hz, 1 H), 7.98 (d, J=7.7 Hz, 1 H), 8.22 (s, 1 H), 10.43 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
product | 3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-pyrrolidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCN2CCCC2)C=C(C1)N1CCOCC1 | C31H33FN6O3
